US06770667B1
To a suspension of N-formyl-3-nitroaniline (831 mg) and potassium carbonate (830 mg) in N,N-dimethylformamide (5 ml) was added 2-bromo-3-butanone (906 mg), and the mixture was stirred for 72 hours. The mixture was diluted with ethyl acetate and washed with water and brine. The mixture was dried over magnesium sulfate and evaporated to give N-(1-methyl-2-oxo-propyl)-N-(3-nitrophenyl)formamide (1.18 g, 100%).

reactant | N-formyl-3-nitroaniline | 831 mg | C(=O)NC1=CC(=CC=C1)[N+](=O)[O-] | C7H6N2O3
reactant | potassium carbonate | 830 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-3-butanone | 906 mg | BrC(C)C(C)=O | C4H7BrO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(1-methyl-2-oxo-propyl)-N-(3-nitrophenyl)formamide | 1.18 g, 100% | CC(C(C)=O)N(C=O)C1=CC(=CC=C1)[N+](=O)[O-] | C11H12N2O4
